US06919331B2
A mixture of 2,2-Dimethyl-propionic acid 6-(2-acetoxymethyl-5-cyano-benzoimidazol-1-yl)-hexyl ester (7.2 g, 18 mmol) and K2CO3 (14 g, 101 mmol) in MeOH (100 mL) was stirred at the ambient temperature for 4 h. The nixture was diluted with EtOAc (100 mL) and filtered. The filtrate was evaporated. The residue was dissolved in EtOAc (300 mL) and washed with water and brine. The organic layer was dried over MgSO4 and evaporated. The residue was left for 2 weeks before being purified by flash chromatography (hexanes:acetone 1:1) to give 4.1 g (72%) of acetic acid 6-(5-cyano-2-hydroxymethyl-benzoimidazol-1-yl)-hexyl ester as a white solid.

reactant | 2,2-Dimethyl-propionic acid 6-(2-acetoxymethyl-5-cyano-benzoimidazol-1-yl)-hexyl ester | 18 mmol, 7.2 g | C(C)(=O)OCC1=NC2=C(N1CCCCCCOC(C(C)(C)C)=O)C=CC(=C2)C#N | C22H29N3O4
reactant | K2CO3 | 101 mmol, 14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 100 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | acetic acid 6-(5-cyano-2-hydroxymethyl-benzoimidazol-1-yl)-hexyl ester | 4.1 g, 72% | C(#N)C1=CC2=C(N(C(=N2)CO)CCCCCCOC(C)=O)C=C1 | C17H21N3O3
